US03987042
2-Methoxy-10-(3-quinuclidinyl-methyl)-phenothiazine ##SPC14##
19.8 ml of a 50% suspension of sodium amide in xylene were added to a suspension of 68.3 g of 2-methoxyphenothiazine in 700 ml of anhydrous xylene. The mixture was agitated and heated to reflux. After 41/2 hours, 272 ml of an 8.5% solution of 3-chloromethyl-quinuclidine in xylene were added over a period of an hour and reflux was maintained for 16 hours. After cooling to room temperature, the reaction mixture was worked up as in Example 2. After recrystallisation of the crude product in a mixture of ether and isopropyl oxide, 2-methoxy-10-(3-quinuclidinylmethyl)-phenothiazine, m.p. 135°-136° C, was obtained.

reactant | sodium amide | [NH2-].[Na+]
reactant | 2-methoxyphenothiazine | 68.3 g | COC1=CC=2NC3=CC=CC=C3SC2C=C1 | C13H11NOS
reactant | 3-chloromethyl-quinuclidine | ClCC1CN2CCC1CC2 | C8H14ClN
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 700 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Methoxy-10-(3-quinuclidinyl-methyl)-phenothiazine | COC1=CC=2N(C3=CC=CC=C3SC2C=C1)CC1CN2CCC1CC2 | C21H24N2OS
